US07723333B2
4-[(1-Benzylpiperidin-4-yl)amino]-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 24 from 1 equivalent 1-benzylpiperidine-4-amine, 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 1 equivalent TEA with a reaction time of 30 mins. The residue was purified by silica gel column chromatography (Horizons Biotage) using 35% EtOAc in petroleum ether 40-60° C. as eluent to give the title compound (0.132 g, 58%) as a solid. 1H NMR (500 MHz CDCl3): δ 7.54-7.7.47 (m, 2H), 7.46-7.42 (m, 3H), 7.31-7.26 (m, 2H), 7.26-7.21 (m, 3H), 5.20 (d, 1H), 3.35 (s, 2H), 2.99-2.90 (m, 1H), 2.67-2.62 (m, 2H), 1.74 (s, 9H), 1.71-1.56 (m, 4H), 1.44-1.33 (m, 2H); 13C NMR (125 MHz CDCl3): δ 159.9, 138.5, 134.2, 131.8, 129.9, 129.1, 128.8, 128.4, 127.3, 125.4, 106.7, 62.9, 61.7, 51.9, 50.3, 32.6, 27.8; Mass spectrum: M+H+ 454.

reactant | 1-benzylpiperidine-4-amine | 1 equivalent | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
product | 4-[(1-Benzylpiperidin-4-yl)amino]-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.132 g, 58% | C(C1=CC=CC=C1)N1CCC(CC1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C25H31N3O3S
